US06586617B1
Synthesis of 4-Chloro-2-nitro-N-methyl-N-[(trans)-β-styrenesulfonyl]aniline (Compound No. 282)
To a suspension of sodium hydride (60%, 0.13 g (3.25 mmol)) in DMF (7.0 ml), 4-chloro-2-nitro-N-[(trans)-β-styrenesulfonyl]aniline (1.00 g (2,95 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, dimethyl sulfate (0.32 ml (3.38 mmol)) was added. The resulting mixture was stirred at 80° C. for 3 hours, and then poured into water, extracted with diethyl ether. The extract was washed with 1% sodium hydroxide solution, water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. Small amount of diethyl ether was added to the residue and crystals separated was filtered and washed to give 0.99 g (95%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 3.25 mmol, 0.13 g | [H-].[Na+]
reactant | 4-chloro-2-nitro-N-[(trans)-β-styrenesulfonyl]aniline | 2,95 mmol, 1.00 g | ClC1=CC(=C(NS(=O)(=O)\C=C\C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C14H11ClN2O4S
reactant | dimethyl sulfate | 3.38 mmol, 0.32 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | DMF | 7.0 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-2-nitro-N-methyl-N-[(trans)-β-styrenesulfonyl]aniline | 0.99 g, 95% | ClC1=CC(=C(N(S(=O)(=O)\C=C\C2=CC=CC=C2)C)C=C1)[N+](=O)[O-] | C15H13ClN2O4S
